US05808062
4-Hydroxy-3-[(2-oxo-2-phenylethyl)thio]-6-phenyl-2H-pyran-2-one.
A solution of 4-hydroxy-3-mercapto-6-phenyl-2-pyrone (0.175, 0.840 mmol, prepared as in R. F. Harris, J. E. Dunbar, U.S. Pat. No. 3,818,046) in CH2Cl2 (3.0 mL) under an N2 atmosphere was treated with triethylamine (0.12 mL, 0.84 mmol) followed by bromoacetophenone (0.167 g, 0.840 mmol). The mixture was allowed to stir for 30 min. at ambient temperature then the solvent removed in vacuo. The residue was then diluted with diethyl ether and extracted with saturated Na2CO3 (3×50 mL). The aquous layers were then combined, acidifed with conc. HCl, and extracted with CH2Cl2 (3×100 mL). The organic layers were combined, dried with Na2SO4, and the solvent removed in vacuo to give the title compound (0.066 g, m.p. 164°-166° C.) which was dried in vacuo. 1H NMR (300 MHz, CDCl3) δ 9.900 (bs, 1 H), 7.970 (d, 2 H, J=7.1 Hz), 7.810 (d, 2 H, J=8 Hz), 7.615 (t, 1 H, J=4 Hz), 7.505-7.443 (m, 5 H), 6.619 (s, 1 H), 4.334 (s, 2 H).

reactant | 4-hydroxy-3-mercapto-6-phenyl-2-pyrone | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)S | C11H8O3S
reactant | triethylamine | 0.84 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | bromoacetophenone | 0.840 mmol, 0.167 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
product | 4-Hydroxy-3-[(2-oxo-2-phenylethyl)thio]-6-phenyl-2H-pyran-2-one | 0.066 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SCC(C1=CC=CC=C1)=O | C19H14O4S
